US06548495B2
(2-{3-[3-(3-Methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J1) (181 mg, 0.5 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K4) (151 mg, 0.5 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (117 mg).

reactant | (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 0.5 mmol, 181 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)N)=O | C16H22F3N3O3
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 0.5 mmol, 151 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (2-{3-[3-(3-Methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C29H31F3N4O6
